US04634710
13.5 g of sodium were dissolved in 2300 ml of ethanol under argon. 60 g of 2,5-dimethyl-4-nitropyridine 1-oxide were then added portionwise thereto and the solution was left to boil under reflux overnight. The pH was adjusted to 7 with 5N hydrogen chloride in ethyl acetate while cooling, whereupon the mixture was evaporated in vacuo. The residue was taken up in 1 l of methylene chloride, the solution was filtered through silica gel, which was rinsed with 500 ml of methylene chloride, and the combined filtrates were evaporated in vacuo. The product was chromatographed on 300 g of silica gel with methylene chloride/methanol (95:5). After crystallization from ether/petroleum ether there was obtained 4-ethoxy-2,5-dimethylpyridine 1-oxide of melting point 65°-67°.

reactant | sodium | 13.5 g | [Na] | Na
reactant | 2,5-dimethyl-4-nitropyridine 1-oxide | 60 g | CC1=[N+](C=C(C(=C1)[N+](=O)[O-])C)[O-] | C7H8N2O3
reactant | hydrogen chloride | 5N | Cl | ClH
reactant | ethanol | 2300 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-ethoxy-2,5-dimethylpyridine 1-oxide | C(C)OC1=CC(=[N+](C=C1C)[O-])C | C9H13NO2
